************************************************************************
* auCdl Netlist:
* 
* Library Name:  lab3
* Top Cell Name: NOR2
* View Name:     schematic
* Netlisted on:  Nov 19 18:38:26 2025
************************************************************************

.INCLUDE  /CMC/kits/cmosp18.6.13a_ic6/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab3
* Cell Name:    NOR2
* View Name:    schematic
************************************************************************

.SUBCKT NOR2 A B OUT VDD VSS
*.PININFO A:I B:I OUT:O VDD:B VSS:B
MM1 OUT B VSS VSS N l=180.0n w=1e-6 m=1
MM0 OUT A VSS VSS N l=180.0n w=1e-6 m=1
MM3 OUT B net1 VDD P l=180.0n w=4e-6 m=1
MM2 net1 A VDD VDD P l=180.0n w=4e-6 m=1
.ENDS

